US06080743
2-Amino-3-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxalin-5-yl)-propionic acid
A suspension of 0.29 g (0.62 mmol) of 2-acetylamino-2-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-malonic acid diethyl ester in 6 ml of 6N hydrochloric acid is heated at reflux for 24 hours and then concentrated to dryness under reduced pressure. After boiling the residue up with water, centrifugation and drying, the title compound is obtained in the form of a yellow powder.

reactant | 2-acetylamino-2-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-malonic acid diethyl ester | 0.62 mmol, 0.29 g | C(C)OC(C(C(=O)OCC)(CC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC)NC(C)=O)=O | C20H24N4O9
solvent | hydrochloric acid | 6N, 6 ml | Cl | ClH
product | 2-Amino-3-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxalin-5-yl)-propionic acid | NC(C(=O)O)CC1=C2NC(C(NC2=CC(=C1)[N+](=O)[O-])=O)=O | C11H10N4O6
